US04127405
N-[(4,6-Dimethyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-methylbenzenesulfonamide
To 12.3 g 2-amino-4,6-dimethyl-1,3,5-triazine in 250 ml of dry acetonitrile was added, with stirring, 19.7 g of 2-methylbenzenesulfonyl isocyanate at a rate designed to avoid excessive heating of the reaction mixture. Stirring was continued until the desired product crystallized. The product was removed by filtration, washed with a small amount of ethyl ether and dried. The resulting product, N-[(4,6-dimethyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-methylbenzenesulfonamide, melted at 141°-145° C.

reactant | 2-amino-4,6-dimethyl-1,3,5-triazine | 12.3 g | NC1=NC(=NC(=N1)C)C | C5H8N4
reactant | 2-methylbenzenesulfonyl isocyanate | 19.7 g | CC1=C(C=CC=C1)S(=O)(=O)N=C=O | C8H7NO3S
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | N-[(4,6-Dimethyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-methylbenzenesulfonamide | CC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C | C13H15N5O3S
